* Z:\home\jkmunson\workspace\sp24\EENG_331_LAB5\part_2_a-d.asc
V1 wav_in 0 wavefile=harvey_super_cool.wav
R11 wav_in wav_attenuated 200
R12 wav_attenuated 0 1
M1 N002 N003 0 0 cs_nmos
V2 N001 0 5
C2 Vout N002 100µ
I1 N001 N002 1m
C1 vtest N003 100µ
Vtest vtest 0 SINE(0 .001 100)
R1 N002 N003 5k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\jkmunson\AppData\Local\LTspice\lib\cmp\standard.mos
.wave "attenuated_super_cool.wav" 16 44.1k V(wav_attenuated)
.tran .05
* .op
.model cs_nmos NMOS(w=20000u L=10u kp=100u vt0=0.5 lambda=.01)
.backanno
.end
