* Z:\home\jkmunson\workspace\sp24\EENG_331_LAB5\part_1_ab.asc
V1 wav_in 0 wavefile=harvey_super_cool.wav
R1 wav_in wav_attenuated 200
R2 wav_attenuated 0 1
.wave "attenuated_super_cool.wav" 16 44.1k V(wav_attenuated)
.tran 2
.backanno
.end
